US09120884B2
In a 1000 mL round flask, 2,9,9-trimethyl-2,3-dihydrocyclopenta[b]fluoren-1(9H)-one (50 g, 190.6 mmol) was dissolved THF 400 mL and ethanol 400 mL, and then stirred. Sodium borohydride (NaBH4) (9.4 g, 247.8 mmol) was added to the reaction product in five lots, and then stirred for 12 hours. The resultant mixture, after removal of solvent, was dissolved in ethylacetate, and then washed with water three times. The organic layer was dried over magnesium sulfate, followed by removal of volatile materials. The dried reaction product was dissolved in 320 mL of toluene, and then inputted to a 500 mL round flask. After that, p-toluene sulfonic acid (0.2 g) was inputted thereto, and then water was completely removed under reflux with Dean-Stark. The resultant material was cooled to room temperature, and then an aqueous ammonium chloride solution (150 mL) and 200 mL of diethyl ether were injected thereto, followed by separation of the organic layer. The organic layer collected by extracting the residue with diethyl ether was dried over magnesium sulfate, followed by removal of volatile materials, and then purified by using silica gel column chromatography, to thereby obtain 42.0 g of 2,9,9-trimethyl-3,9-dihydrocyclopenta[b]fluorene (yield: 89.42%).

reactant | 2,9,9-trimethyl-2,3-dihydrocyclopenta[b]fluoren-1(9H)-one | 190.6 mmol, 50 g | CC1CC=2C(=CC=3C(C4=CC=CC=C4C3C2)(C)C)C1=O | C19H18O
reactant | Sodium borohydride | 247.8 mmol, 9.4 g | [BH4-].[Na+]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | ethanol | 400 mL | C(C)O | C2H6O
solvent | toluene | 320 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluene sulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2,9,9-trimethyl-3,9-dihydrocyclopenta[b]fluorene | 42.0 g, yield: 89.42% | CC=1CC=2C(=CC=3C(C4=CC=CC=C4C3C2)(C)C)C1 | C19H18
